US07122550B2
N-[4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenyl]cyclopropanecarboxamide
In a method analogous to that reported in example 39, reaction of 6-(4-aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine (58 mg, 0.2 mmol) and cyclopropanecarbonyl chloride (25 mg, 0.24 mmol) furnished the pure product after chromatographic purification using ethyl acetate-hexane (3:2) (46 mg, 64%).

reactant | 6-(4-aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 0.2 mmol, 58 mg | NC1=CC=C(C=C1)C1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C18H18N4
reactant | cyclopropanecarbonyl chloride | 0.24 mmol, 25 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | N-[4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenyl]cyclopropanecarboxamide | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)C1=CC=C(C=C1)NC(=O)C1CC1 | C22H22N4O
